Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Trauma activation from 5 foot fall 
 
Major Surgical or Invasive Procedure:
___ Exploratory laparotomy and splenectomy

 
History of Present Illness:
ACS is consulted to evaluate this ___ man status post
witnessed 5 foot fall into ___ pit presenting with multiple PL
Left sided rib fx, hemoperitoneum w/ liver, spleen, and left
kidney lacerations. 

Per documentation following his fall he was pulled out by
bystanders and ambulatory on scene per EMS. At that time patient
unable to complete full interview secondary to intoxication with
ETOH, benzos.  Patient states he is drinking, may have used 
drugs
but he is not sure. Also endorses epigastric pain. States he has
history of hepatitis C, no other medical problems.

On evaluation, patient HDS. GCS 15. Abdomen soft, tender to
palpation to LUQ. Non-peritoneal.

 
Past Medical History:
PMH: 
Hep C - untreated 
Depression/anxiety
History of polysubstance abuse
Right PTX s/p gunshot wound to right chest ___ 

PSH: 
Right chest tube placement ___
Laceration repair back, posterior leg s/p stabbing 

 
Social History:
___
Family History:
FH: 
No known family history
 
Physical Exam:
VS:  
General : In no acute distress
Cardio: Normal S1, S2
Pulmonary: CTAB
Abdomen: Soft, mildy distended, mild LUQ tenderness, midline 
closed with staples 
Extremities: no edema, no erythema

 
Pertinent Results:
___ 07:00AM BLOOD WBC-11.6* RBC-2.86* Hgb-8.5* Hct-25.9* 
MCV-91 MCH-29.7 MCHC-32.8 RDW-13.9 RDWSD-45.4 Plt ___
___ 06:56AM BLOOD WBC-10.7* RBC-2.74* Hgb-8.4* Hct-25.0* 
MCV-91 MCH-30.7 MCHC-33.6 RDW-13.9 RDWSD-46.1 Plt ___
___ 05:44PM BLOOD WBC-11.7* RBC-2.64* Hgb-8.0* Hct-24.2* 
MCV-92 MCH-30.3 MCHC-33.1 RDW-14.0 RDWSD-46.5* Plt ___
___ 06:50AM BLOOD WBC-12.9* RBC-2.23* Hgb-6.9* Hct-21.0* 
MCV-94 MCH-30.9 MCHC-32.9 RDW-13.7 RDWSD-46.4* Plt ___
___ 06:42AM BLOOD WBC-15.9* RBC-2.41* Hgb-7.4* Hct-22.8* 
MCV-95 MCH-30.7 MCHC-32.5 RDW-14.1 RDWSD-47.8* Plt ___
___ 01:59AM BLOOD WBC-15.8* RBC-2.45* Hgb-7.6* Hct-22.4* 
MCV-91 MCH-31.0 MCHC-33.9 RDW-14.0 RDWSD-46.8* Plt ___
___ 07:25AM BLOOD WBC-15.3* RBC-2.62* Hgb-8.1* Hct-23.7* 
MCV-91 MCH-30.9 MCHC-34.2 RDW-14.1 RDWSD-46.1 Plt ___
___ 12:05AM BLOOD WBC-14.5* RBC-2.70* Hgb-8.4* Hct-24.1* 
MCV-89 MCH-31.1 MCHC-34.9 RDW-14.1 RDWSD-45.8 Plt ___
___ 10:17PM BLOOD WBC-15.8* RBC-2.89* Hgb-9.0* Hct-26.1* 
MCV-90 MCH-31.1 MCHC-34.5 RDW-14.3 RDWSD-47.0* Plt ___
___ 03:22PM BLOOD WBC-12.4* RBC-2.99* Hgb-9.3* Hct-27.0* 
MCV-90 MCH-31.1 MCHC-34.4 RDW-14.2 RDWSD-46.7* Plt ___
___ 12:00PM BLOOD WBC-13.3* RBC-3.34* Hgb-10.5* Hct-30.1* 
MCV-90 MCH-31.4 MCHC-34.9 RDW-14.2 RDWSD-46.5* Plt ___
___ 05:09AM BLOOD WBC-12.6* RBC-2.45* Hgb-7.6* Hct-22.3* 
MCV-91 MCH-31.0 MCHC-34.1 RDW-13.2 RDWSD-43.8 Plt Ct-78*
___ 04:00AM BLOOD WBC-13.6* RBC-1.95* Hgb-6.1* Hct-18.2* 
MCV-93 MCH-31.3 MCHC-33.5 RDW-13.3 RDWSD-45.2 Plt Ct-93*
___ 07:43AM BLOOD WBC-9.2 RBC-2.52* Hgb-8.0* Hct-24.2* 
MCV-96 MCH-31.7 MCHC-33.1 RDW-12.6 RDWSD-43.3 Plt ___
___ 10:07AM BLOOD WBC-5.2 RBC-2.56* Hgb-8.1* Hct-25.0* 
MCV-98 MCH-31.6 MCHC-32.4 RDW-12.8 RDWSD-45.1 Plt ___
___ 04:08AM BLOOD WBC-4.9 RBC-2.48* Hgb-8.0* Hct-23.9* 
MCV-96 MCH-32.3* MCHC-33.5 RDW-12.7 RDWSD-44.8 Plt ___
___ 09:30PM BLOOD WBC-5.3 RBC-2.71* Hgb-8.5* Hct-26.6* 
MCV-98 MCH-31.4 MCHC-32.0 RDW-12.9 RDWSD-45.8 Plt ___
___ 04:20PM BLOOD WBC-5.7 RBC-2.71* Hgb-8.6* Hct-26.0* 
MCV-96 MCH-31.7 MCHC-33.1 RDW-13.0 RDWSD-45.6 Plt ___
___ 02:04PM BLOOD WBC-1.9* RBC-2.33* Hgb-7.4* Hct-22.6* 
MCV-97 MCH-31.8 MCHC-32.7 RDW-13.1 RDWSD-46.7* Plt Ct-80*
___ 05:45AM BLOOD WBC-7.6 RBC-2.98* Hgb-9.5* Hct-29.1* 
MCV-98 MCH-31.9 MCHC-32.6 RDW-13.0 RDWSD-46.5* Plt ___
___ 02:17AM BLOOD WBC-9.5 RBC-3.05* Hgb-9.8* Hct-29.6* 
MCV-97 MCH-32.1* MCHC-33.1 RDW-12.9 RDWSD-46.0 Plt ___
___ 10:05PM BLOOD WBC-12.9* RBC-3.48* Hgb-11.2* Hct-33.7* 
MCV-97 MCH-32.2* MCHC-33.2 RDW-12.8 RDWSD-45.5 Plt ___
___ 01:59AM BLOOD Neuts-78.8* Lymphs-11.8* Monos-8.2 
Eos-0.1* Baso-0.1 NRBC-0.3* Im ___ AbsNeut-12.44* 
AbsLymp-1.86 AbsMono-1.29* AbsEos-0.02* AbsBaso-0.02
___ 04:00AM BLOOD Neuts-74.2* Lymphs-15.3* Monos-6.3 
Eos-0.1* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-10.11* 
AbsLymp-2.09 AbsMono-0.86* AbsEos-0.02* AbsBaso-0.02
___ 10:05PM BLOOD Neuts-66.6 ___ Monos-10.2 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-8.58* AbsLymp-2.81 
AbsMono-1.32* AbsEos-0.10 AbsBaso-0.03
___ 07:00AM BLOOD Plt ___
___ 06:56AM BLOOD Plt ___
___ 05:44PM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:42AM BLOOD Plt ___
___ 01:59AM BLOOD Plt ___
___ 09:37AM BLOOD ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD ___ PTT-24.6* ___
___ 12:05AM BLOOD Plt ___
___ 10:17PM BLOOD Plt ___
___ 03:22PM BLOOD Plt ___
___ 12:00PM BLOOD Plt ___
___ 05:09AM BLOOD Plt Ct-78*
___ 05:09AM BLOOD ___ PTT-24.1* ___
___ 04:00AM BLOOD Plt Ct-93*
___ 03:49AM BLOOD ___ PTT-22.7* ___
___ 07:43AM BLOOD Plt ___
___ 10:07AM BLOOD Plt ___
___ 04:08AM BLOOD Plt ___
___ 04:08AM BLOOD ___ PTT-24.3* ___
___ 09:30PM BLOOD Plt ___
___ 08:13PM BLOOD Plt Ct-UNABLE TO 
___ 04:20PM BLOOD Plt ___
___ 02:04PM BLOOD Plt Smr-VERY LOW* Plt Ct-80*
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-23.9* ___
___ 10:05PM BLOOD Plt ___
___ 10:05PM BLOOD ___ PTT-22.8* ___
___ 03:49AM BLOOD ___ 04:00AM BLOOD Ret Aut-2.8* Abs Ret-0.05
___ 07:00AM BLOOD Glucose-89 UreaN-7 Creat-0.6 Na-139 K-3.9 
Cl-101 HCO3-25 AnGap-13
___ 06:56AM BLOOD Glucose-92 UreaN-6 Creat-0.5 Na-137 K-3.8 
Cl-97 HCO3-25 AnGap-15
___ 06:50AM BLOOD Glucose-92 UreaN-7 Creat-0.6 Na-135 K-3.8 
Cl-99 HCO3-25 AnGap-11
___ 06:42AM BLOOD Glucose-99 UreaN-8 Creat-0.6 Na-137 K-4.2 
Cl-100 HCO3-26 AnGap-11
___ 01:59AM BLOOD Glucose-101* UreaN-8 Creat-0.6 Na-135 
K-4.1 Cl-98 HCO3-26 AnGap-11
___ 07:25AM BLOOD Glucose-108* UreaN-8 Creat-0.7 Na-137 
K-4.6 Cl-101 HCO3-25 AnGap-11
___ 07:25AM BLOOD Glucose-108* UreaN-8 Creat-0.7 Na-137 
K-4.6 Cl-101 HCO3-25 AnGap-11
___ 12:05AM BLOOD Glucose-120* UreaN-9 Creat-0.6 Na-135 
K-4.3 Cl-102 HCO3-25 AnGap-8*
___ 10:17PM BLOOD Glucose-117* UreaN-9 Creat-0.7 Na-135 
K-4.5 Cl-102 HCO3-25 AnGap-8*
___ 03:22PM BLOOD Glucose-128* UreaN-11 Creat-0.9 Na-136 
K-4.3 Cl-101 HCO3-25 AnGap-10
___ 05:09AM BLOOD Glucose-168* UreaN-12 Creat-0.9 Na-136 
K-3.4* Cl-104 HCO3-22 AnGap-10
___ 01:58AM BLOOD Glucose-269* UreaN-8 Creat-0.7 Na-131* 
K-3.5 Cl-97 HCO3-14* AnGap-20*
___ 04:08AM BLOOD Glucose-111* UreaN-10 Creat-0.7 Na-134* 
K-3.9 Cl-99 HCO3-27 AnGap-8*
___ 05:45AM BLOOD Glucose-111* UreaN-10 Creat-0.8 Na-139 
K-4.5 Cl-104 HCO3-21* AnGap-14
___ 10:05PM BLOOD Glucose-127* UreaN-10 Creat-1.0 Na-142 
K-4.5 Cl-104 HCO3-21* AnGap-17
___ 04:08AM BLOOD ALT-24 AST-39 LD(LDH)-238 AlkPhos-63 
TotBili-0.6
___ 10:05PM BLOOD ALT-31 AST-61* AlkPhos-66 TotBili-0.2
___ 07:00AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.0
___ 06:56AM BLOOD Calcium-8.5 Phos-4.2 Mg-2.0
___ 06:50AM BLOOD Calcium-8.5 Phos-3.7 Mg-2.0
___ 06:42AM BLOOD Calcium-8.3* Phos-3.1 Mg-2.2
___ 01:59AM BLOOD Calcium-8.2* Phos-2.7 Mg-2.2
___ 07:25AM BLOOD Calcium-7.8* Phos-2.2* Mg-2.2
___ 12:05AM BLOOD Calcium-7.7* Phos-2.6* Mg-1.7
___ 10:17PM BLOOD Calcium-7.6* Phos-2.9 Mg-1.8
___ 03:22PM BLOOD Calcium-7.4* Phos-3.2 Mg-1.8
___ 05:09AM BLOOD Calcium-7.0* Phos-4.5 Mg-2.2
___ 04:08AM BLOOD Albumin-3.6 Calcium-8.4 Phos-2.7 Mg-1.9
___ 05:45AM BLOOD Calcium-8.7 Phos-4.2 Mg-1.8
___ 10:05PM BLOOD Albumin-4.0 Calcium-8.8 Phos-4.5 Mg-2.0
___ 10:05PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 05:31AM BLOOD Type-ART pO2-170* pCO2-45 pH-7.32* 
calTCO2-24 Base XS--3
___ 04:00AM BLOOD Type-ART Rates-___/ Tidal V-600 PEEP-5 
FiO2-50 pO2-210* pCO2-44 pH-7.29* calTCO2-22 Base XS--4 
Intubat-INTUBATED Vent-CONTROLLED
___ 05:31AM BLOOD Lactate-2.0
___ 04:00AM BLOOD Glucose-272* Lactate-4.9* K-3.2* 
calHCO3-22
___ 02:10AM BLOOD Lactate-14.0*
___ 10:14PM BLOOD Lactate-2.5*
___ 09:00AM BLOOD Hgb-11.0* calcHCT-33
___ 04:00AM BLOOD Hgb-5.2* calcHCT-16 O2 Sat-96
___ 04:00AM BLOOD freeCa-1.09*
 
Brief Hospital Course:
Mr. ___ is a ___ male with Past Medical History 
significant for untreated Hep C, EtOH substance use disorder, 
polysubstance use disorder who presented to ___ s/p witnessed 
fall 5' into pit at ___ station. He was found to have multiple 
left rib fx (___), liver, spleen, & left kidney lacerations. 
eFAST w/ positive fluid in RUQ, CT scan with fluid in pelvis. He 
was admitted to the trauma surgery icu for close monitoring. He 
underwent serial abdominal exams, Q6H CBC and Phenobarbital 
loading for ETOH prophylaxis. His hematocrit remained relatively 
stable and he was called out to the floor on HD 2. He was stable 
on the floor until HD 4 when he acutely decompensated with 
tachycardia to the 140s with SBP ___.  We gained access and took 
him to the operating room emergently for an exploratory 
laparotomy where he underwent a splenectomy. He received 5uprbc 
total, 1 uffp. He was stabilized, extubated in the pacu and 
transferred back to the floor for further management. 

On 

___ - discharged. Tolerating regular diet. Passing flatus 
and having bowel movements. Patient received post splenectomy 
vaccines on discharge with instruction to follow up with PCP for 
continuous booster shots.  Midline abdominal Staples to be 
removed in clinic. 
___ Tolerating clears and some limited regular diet. 
Ambulating independently . 
___ Advanced diet to regular, H/H stable. ambulating with 
RN. reassess needs.  
 ___ 1 unit PRBCs for Hct 21. post tx Hct: 24.2 , 
suppository, small liquid BM  
 ___ blood cx, u cx pending, UA neg, walking with walker, 
___ consult, oxy ___ q4hr  
 ___ foley/JP DC  
 ___ Temp 101.8 at ___. Resolved with Tylenol. CBC, CXR, 
blood cx, UA sent stat  
 ___ tachy 130s, SBP ___, 1L fluid, 2 uprbc, OR ex lap  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 80 mg PO DAILY 
2. ProAir HPA - 2 puffs, every 4 hours as needed for wheezing 
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Docusate Sodium 100 mg PO BID  
3.  HydrOXYzine 25 mg PO TID Anxiety  
Take 1 capsule three times as needed for anxiety   
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
5.  ProAir HFA (albuterol sulfate) Other  inhalation Other 
2 PUFFS , EVERY 4 HOURS AS NEEDED FOR WHEEZING 
6.  Methadone 80 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Nondisplaced fracture posterior left 12th rib,  
2. Mildly displaced, comminuted fracture posterior left ___ & 
11th ribs  
3. Mildly displaced fracture posterolateral left 9th rib  
4. Nondisplaced fracture anterolateral left 8th rib  
5. Left kidney laceration (possible extension to renal pelvis & 
collecting system)  
6. Multiple splenic lacerations  
7. Peripheral inferior liver laceration    

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a fall sustaining left sided rib fractures, and injuries 
to you spleen, liver, and left kidney. You had a large bleed 
from your spleen and therefore you were taken to the operating 
room and had it removed. Your spleen is important for your 
immune system to function and therefore you were given vaccines 
(Influenza. PCV13, Menactra, HIB) prior to leaving the hospital. 
You should follow up with your primary care provider for ongoing 
vaccines. 

You are now doing better, tolerating a regular diet, having 
bowel function (gas and bowel movements) and pain is better 
controlled. 

You are now ready to be discharged to home with the following 
discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

Liver/ Spleen lacerations:

*AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.
 
*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.
 
*AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.

 
Followup Instructions:
___